US05716756
4.5 g (7.88 mmol) of 1,3,5-tris-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethylethyl)-benzene were dissolved in 40 ml of dry DMF, and 0.95 g (31.5 mmol) of sodium hydride was added while flushing with nitrogen. After dissolution of the hydride, 6.56 g (30 mmol) of 4-isopropylbenzenesulfonyl chloride were added at 0 to 5° C. Slight evolution of heat was observed. The mixture was stirred for 20 hours at 5° C., ethyl acetate was added and the mixture was washed with water, dried, filtered and evaporated down. 9.6 g of crude product were obtained, and said crude product was eluted over a silica gel column with a 1:1 mixture of methylene chloride/hexane. The third fraction obtained was freed from the solvent and gave 6.8 g of 1,3,5-tris-[2,2,2-trifluoro-1-(4-isopropylbenzenesulfonyloxy)-1-trifluoromethylethyl]-benzene. M.p. 105° C.

reactant | 1,3,5-tris-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethylethyl)-benzene | 7.88 mmol, 4.5 g | FC(C(C(F)(F)F)(O)C1=CC(=CC(=C1)C(C(F)(F)F)(O)C(F)(F)F)C(C(F)(F)F)(O)C(F)(F)F)(F)F | C15H6F18O3
reactant | sodium hydride | 31.5 mmol, 0.95 g | [H-].[Na+]
reactant | hydride | [H-]
reactant | 4-isopropylbenzenesulfonyl chloride | 30 mmol, 6.56 g | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1,3,5-tris-[2,2,2-trifluoro-1-(4-isopropylbenzenesulfonyloxy)-1-trifluoromethylethyl]-benzene | 6.8 g | FC(C(C(F)(F)F)(OS(=O)(=O)C1=CC=C(C=C1)C(C)C)C1=CC(=CC(=C1)C(C(F)(F)F)(OS(=O)(=O)C1=CC=C(C=C1)C(C)C)C(F)(F)F)C(C(F)(F)F)(OS(=O)(=O)C1=CC=C(C=C1)C(C)C)C(F)(F)F)(F)F | C42H36F18O9S3
